US07737152B2
N-(4-(6-Chloropyrazin-2-yloxy)naphthalen-1-yl)acetamide
Method DD was followed (in a round-bottomed flask, reaction time: 20 hours) with N-(4-hydroxynaphthalen-1-yl)acetamide (1.22 g, 6.08 mmol) and 2,6-dichloropyrazine (1.09 g, 7.30 mmol). The DMF was evaporated in vacuo. The resulting crude was dissolved in a mixture (hot) of AcOEt (25 mL) and acetone (175 mL) and filtered. The volume of the filtrate was reduced to 100 mL and this filtrate crystallised upon storage at low temperature to yield the title compound (1.30 g). Yield: 68%. 1H NMR (500 MHz, DMSO-d6) δ 2.21 (s, 3H), 7.42 (d, 1H, J=8.2 Hz), 7.57 (t, 1H, J=7.5 Hz), 7.64 (t, 1H, J=7.6 Hz), 7.72 (d, 1H, J=8.1 Hz), 7.90 (d, 1H, J=8.3 Hz), 8.16 (d, 1H, J=8.5 Hz), 8.52 (s, 1H), 8.72 (s, 1H), 10.02 (s, 1H). 13C NMR (125.8 MHz, DMSO-d6) δ 23.42, 117.59, 121.40, 121.65, 123.42, 126.53, 126.71, 126.85, 128.90, 131.85, 133.59, 137.50, 144.40, 145.04, 158.92, 169.04. m/z 314.0 [(M+H)+ calcd for C16H12ClN3O2 313.1].

reactant | N-(4-hydroxynaphthalen-1-yl)acetamide | 6.08 mmol, 1.22 g | OC1=CC=C(C2=CC=CC=C12)NC(C)=O | C12H11NO2
reactant | 2,6-dichloropyrazine | 7.30 mmol, 1.09 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
product | N-(4-(6-Chloropyrazin-2-yloxy)naphthalen-1-yl)acetamide | 1.30 g, Yield: 68% | ClC1=CN=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C)=O | C16H12ClN3O2
